US07754746B2
{2-[1-(2-Fluoroethyl)-1H-imidazol-4-yl]-ethyl}-carbamic acid tert-butyl ester
To a warmed (30° C.) suspension of 2-(2-fluoro-ethyl)-5-oxo-5,6,7,8-tetrahydro-imidazo[1,5-c]pyrimidin-2-ium (1.01 g, 3.82 mmol) in t-butanol (38 ml), was added Hunig's base (1.33 ml, 7.64 mmol) and the mixture heated to reflux under an inert atmosphere for 1.5 h. The mixture was cooled and the solvent evaporated to a yellow semi-solid, which was triterated with dichloromethane. The solid was filtered off and the filtrate purified by silica column chromatography, to yield a colourless solid (0.384 g, 39%).

reactant | 2-(2-fluoro-ethyl)-5-oxo-5,6,7,8-tetrahydro-imidazo[1,5-c]pyrimidin-2-ium | 3.82 mmol, 1.01 g | FCC[N+]1=CN2C(NCCC2=C1)=O
reactant | Hunig's base | 7.64 mmol, 1.33 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | t-butanol | 38 ml | C(C)(C)(C)O | C4H10O
product | {2-[1-(2-Fluoroethyl)-1H-imidazol-4-yl]-ethyl}-carbamic acid tert-butyl ester | 0.384 g, 39% | C(C)(C)(C)OC(NCCC=1N=CN(C1)CCF)=O | C12H20FN3O2
